US07981903B2
A solution of 1-acetyl-6-(methyloxy)-1,2,3,4-tetrahydroquinoline (500 mg, 2.44 mmol, Aldrich) in trifluoroacetic acid (4 mL, Aldrich) was treated with sodium nitrite (169 mg, 2.45 mmol, added slowly in about 4 portions, Aldrich). The dark brown reaction was stirred for 2 h and then poured over ice. The mixture was extracted with ethyl acetate and the organic layer was separated, dried over magnesium sulfate, filtered, concentrated, and purified by chromatography on SiO2 (0 to 100% ethyl acetate/hexanes) to give 1-acetyl-6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroquinoline (357 mg, 59%). 1H NMR (400 MHz, DMSO-d6) is complicated due to amide rotomers δ ppm 1.83-1.94 (m, 2 H), 2.14-2.25 (m, 3 H), 2.76-2.85 (m, 2 H), 3.64-3.73 (m, 2 H), 3.86-3.92 (m, 3 H), 7.14-7.25 (m, 1 H), 8.38 (very broad singlet, 1H).

reactant | 1-acetyl-6-(methyloxy)-1,2,3,4-tetrahydroquinoline | 2.44 mmol, 500 mg | C(C)(=O)N1CCCC2=CC(=CC=C12)OC | C12H15NO2
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-acetyl-6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroquinoline | 357 mg, 59% | C(C)(=O)N1CCCC2=CC(=C(C=C12)[N+](=O)[O-])OC | C12H14N2O4
